US08629137B2
3-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
350 mg (1.27 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and 180 mg (0.600 mmol) 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were stirred overnight in 3 mL NMP at 120° C. The reaction mixture was diluted with MeOH and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 1.27 mmol, 350 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | 6-(2-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.600 mmol, 180 mg | ClC1=NC=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H11ClN2O3
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 3-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=C2)N2CCC(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)C)=O | C30H31N5O5
